US06498165B1
2-[(S)-1-Phenylethylamino]-4-[5-azidobenzimidazol-1-yl]pyrimidine
A solution of 12 mg of NaNO2 in 0.5 mL of H2O was added to a 5° C. solution of 56 mg of 2-[(S)-1-phenylethylamino]-4-[5-aminobenzimidazol-1-yl]pyrimidine in 2 mL acetic acid. The solution was cooled to 0° C. and stirred for 0.5 hours. A solution of 16.5 mg NaN3 in 0.5 mL H2O was added and stirred for one hour. The solution was diluted with 100 mL of ethyl acetate and washed with water, saturated NaHCO3 and brine. The organic phase was dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography eluting with methanol in methylene chloride to give 53 mg of the title compound. RF: 0.6 (5% MeOH in CH2Cl2). 1H NMR (400 MHz, 1:1 CD3OD/CDCl3): δ 1.60 (d, J=7.0 Hz, 3H), 5.12 (q, J=7.0 Hz, 1H), 6.8 (m, 1H), 6.95 (d, J=6 Hz, 1H), 7.2-7.45 (m, 6H), 7.72 (m, 1H), 8.33 (br s, J=6.5 Hz, 1H), 8.74 (m, 1H). Mass Spectrum (CH3CN-TFA-NH4HCO2-ESI): 357.1 (M+1).

reactant | NaNO2 | 12 mg | N(=O)[O-].[Na+]
reactant | 2-[(S)-1-phenylethylamino]-4-[5-aminobenzimidazol-1-yl]pyrimidine | 56 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)N | C19H18N6
reactant | NaN3 | 16.5 mg | [N-]=[N+]=[N-].[Na+]
solvent | H2O | 0.5 mL | O | H2O
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | H2O | 0.5 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-[(S)-1-Phenylethylamino]-4-[5-azidobenzimidazol-1-yl]pyrimidine | 53 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)N=[N+]=[N-] | C19H16N8
